US05994270
NaH (0.9 g, 37.5 mmol) was added in portions to a 0° C. cooled solution of indole (2.93 g, 25 mmol) in THF (100 mL). After 30 min, ethyl isocyanate (1.78 g, 25 mmol) was added dropwise. The reaction mixture was stirred at RT overnight, then was quenched with 25% citric acid in water (50 mL) and extracted with ethyl acetate (3 X). These organic extracts were combined, dried (MgSo4), and recrystallized from ether/hexanes to afford 1.3 g of N-(ethylaminocarbonyl)indole as a tan solid, a 28% yield. m.p. 71-73° C.

reactant | NaH | 37.5 mmol, 0.9 g | [H-].[Na+]
reactant | indole | 25 mmol, 2.93 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | ethyl isocyanate | 25 mmol, 1.78 g | C(C)N=C=O | C3H5NO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-(ethylaminocarbonyl)indole | 1.3 g, 28% yield | C(C)NC(=O)N1C=CC2=CC=CC=C12 | C11H12N2O
